US06566362B2
66 cm3 of a 2 N butyllithium solution (in hexane) was added dropwise over 30 minutes to a stirred solution of 13.4 g of 2-bromo-5-chloro-4,6-difluoroaniline in 150 cm3 of anhydrous tetrahydrofuran (THF) cooled to a temperature in the region of −75° C. After stirring for 1 hour at this temperature, 12.8 cm3 of dimethylformamide was added. After the addition, the mixture was again stirred for 3 hours at a temperature in the region of −70° C. The mixture was brought to a temperature in the region of −5° C., and then an aqueous ammonium chloride solution (18 g dissolved in 180 cm3) was added. The reaction mixture was extracted twice with 200 cm of diethyl ether. The combined ethereal extracts were washed once with 150 cm3 of water and once with 150 cm3 of a saturated aqueous sodium chloride solution. After drying over magnesium sulphate, the solution was concentrated under reduced pressure (5 kPa), at a temperature in the region of 40° C. After taking up the solid residue obtained in 80 cm3 of hexane and then filtration, 6.2 g of 2-amino-4-chloro-3,5-difluorobenzaldehyde was obtained in the form of a yellow solid.

reactant | butyllithium | 2 N | C(CCC)[Li]
reactant | 2-bromo-5-chloro-4,6-difluoroaniline | 13.4 g | BrC1=C(N)C(=C(C(=C1)F)Cl)F | C6H3BrClF2N
reactant | dimethylformamide | 12.8 cm3 | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 180 cm3, 18 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 cm3 | O1CCCC1 | C4H8O
product | 2-amino-4-chloro-3,5-difluorobenzaldehyde | 6.2 g | NC1=C(C=O)C=C(C(=C1F)Cl)F | C7H4ClF2NO
